US08975254B2
d) tert-Butyl 2-(3-(4-cyano-3-nitrophenyl)-1H-pyrazol-1-yl)ethylcarbamate
2-Nitro-4-(1H-pyrazol-5-yl)benzonitrile (1.0 g), DMF (10 ml) and sodium hydride (60% in oil, 0.24 g) were stirred for 30 min at RT. 2-(tert-Butoxycarbonyl-amino)ethyl methanesulfonate (1.45 g) in DMF (3.3 ml) was added and the mixture was microwaved for 30 min at 160° C. (Biotage Initiator Sixty operating at 2.45 GHz). After pouring the mixture to water, it was extracted with EtOAc. Combined organic phases were washed with water and brine, dried with Na2SO4 and evaporated. The product was triturated with IPA and filtered. Yield 0.92 g. 1H-NMR (400 MHz; d6-DMSO): δ 1.35 (s, 9H), 3.38 (m, 2H), 4.24 (t, 2H), 6.92 (m, 1H), 7.06 (d, 1H), 7.85 (d, 1H), 8.19 (d, 1H), 8.33 (dd, 1H), 8.70 (d, 1H).

reactant | 2-Nitro-4-(1H-pyrazol-5-yl)benzonitrile | 1.0 g | [N+](=O)([O-])C1=C(C#N)C=CC(=C1)C1=CC=NN1 | C10H6N4O2
reactant | sodium hydride | 0.24 g | [H-].[Na+]
reactant | 2-(tert-Butoxycarbonyl-amino)ethyl methanesulfonate | 1.45 g | CS(=O)(=O)OCCNC(=O)OC(C)(C)C | C8H17NO5S
reactant | water | O | H2O
solvent | DMF | 3.3 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | tert-Butyl 2-(3-(4-cyano-3-nitrophenyl)-1H-pyrazol-1-yl)ethylcarbamate | C(#N)C1=C(C=C(C=C1)C1=NN(C=C1)CCNC(OC(C)(C)C)=O)[N+](=O)[O-] | C17H19N5O4
